US04463172
A solution of 84 mg of thiourea in 1 ml of H2O was added to a solution of 713 mg of diphenylmethyl 7-[2-(2-chloroacetylaminothiazol-4-yl)-(Z)-2-methoxyiminoacetamido]-2α-methyl-3-methoxyiminomethylceph-3-em-4-carboxylate in 10 ml of tetrahydrofuran, and the mixture was stirred overnight to distill off the solvent under reduced pressure. The residue was dissolved in CH2Cl2, washed with H2O and saturated aqueous NaCl solution, successively, and dried over MgSO4, followed by distilling off the CH2Cl2 under reduced pressure. The residue was added on a column of silica gel, and the fractions eluted with CH2Cl2.acetone (9:1) were collected to distill off the solvent, thus yielding 180 mg (28%) of diphenylmethyl 7-[2-(2-aminothiazol-4-yl)-(Z)-2-methoxyiminoacetamido]-2α-methyl-3-methoxyiminomethylceph-3-em-4-carboxylate.

reactant | thiourea | 84 mg | NC(=S)N | CH4N2S
reactant | diphenylmethyl 7-[2-(2-chloroacetylaminothiazol-4-yl)-(Z)-2-methoxyiminoacetamido]-2α-methyl-3-methoxyiminomethylceph-3-em-4-carboxylate | 713 mg | ClCC(=O)NC=1SC=C(N1)/C(/C(=O)NC1[C@@H]2N(C(=C([C@H](S2)C)C=NOC)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O)=N/OC | C31H29ClN6O7S2
solvent | H2O | 1 ml | O | H2O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | diphenylmethyl 7-[2-(2-aminothiazol-4-yl)-(Z)-2-methoxyiminoacetamido]-2α-methyl-3-methoxyiminomethylceph-3-em-4-carboxylate | 180 mg, 28% | NC=1SC=C(N1)/C(/C(=O)NC1[C@@H]2N(C(=C([C@H](S2)C)C=NOC)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O)=N/OC | C29H28N6O6S2
